US05428049
12.7 g (0.07 mol) of trichloroacetyl chloride are added dropwise to a suspension consisting of 6.4 g (0.03 mol) of (E)-3-chloro-2-fluoro-cinnamamide oxime in 90 ml of chloroform and 6 ml (0.07 mol) of dry pyridine. During this process, there is a slight evolution of heat. Subsequently, the mixture is stirred for 1 hour and the pyridine hydrochloride which separates out is filtered off and washed with chloroform. The filtrate is concentrated in vacuo and the remaining solid material is recrystallized. 5.0 g (48.7% of theory) of (E)-3-(3-chloro-2-fluoro-styryl)-5-trichloromethyl-1,2,4-oxadiazole are obtained.

reactant | trichloroacetyl chloride | 0.07 mol, 12.7 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | (E)-3-chloro-2-fluoro-cinnamamide oxime | 0.03 mol, 6.4 g | ClC=1C(=C(/C=C/C(N)=NO)C=CC1)F | C9H8ClFN2O
reactant | pyridine | 0.07 mol, 6 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
product | (E)-3-(3-chloro-2-fluoro-styryl)-5-trichloromethyl-1,2,4-oxadiazole | 5.0 g, 48.7% | ClC=1C(=C(/C=C/C2=NOC(=N2)C(Cl)(Cl)Cl)C=CC1)F | C11H5Cl4FN2O
